US04468328
Characterization of phorbol and 4α-phorbol. White needles of phorbol-ethyl acetate solvate (8.9 mg; 0.34% w/w; m.p. 230° C.) were obtained after crystallization from ethyl acetate, which exhibited identical thin-layer chromatography and mass spectral characteristics to an authentic sample of the compound.

reactant | phorbol | C[C@@H]1[C@H]([C@@]2([C@@H](C2(C)C)[C@H]3[C@]1([C@@H]4C=C(C(=O)[C@]4(CC(=C3)CO)O)C)O)O)O | C20H28O6
reactant | 4α-phorbol | C[C@@H]1[C@H]([C@@]2([C@@H](C2(C)C)[C@H]3[C@]1([C@@H]4C=C(C(=O)[C@@]4(CC(=C3)CO)O)C)O)O)O | C20H28O6
product | phorbol ethyl acetate | 8.9 mg | C[C@@H]1[C@H]([C@@]2([C@@H](C2(C)C)[C@H]3[C@]1([C@@H]4C=C(C(=O)[C@]4(CC(=C3)CO)O)C)O)O)O.C(C)(=O)OCC | InChI=1S/C20H28O6.C4H8O2/c1-9-5-13-18(24,15(9)22)7-11(8-21)6-12-14-17(3,4)20(14,26)16(23)10(2)19(12,13)25;1-3-6-4(2)5/h5-6,10,12-14,16,21,23-26H,7-8H2,1-4H3;3H2,1-2H3/t10-,12+,13-,14-,16-,18-,19-,20-;/m1./s1
